### PR TITLE
[Merged by Bors] - fix: add missing deprecations

### PR DESCRIPTION
**Pull request by Ruben-VandeVelde**
From #33633, #30563, #33771, #33755, #31988, #33622, #32837, #33638, #33503, #33321, #33242, #32955, #33159, #33152, #33131, #33144, #32116, #31259, #26831, #32917, #32589, #32584, #32562, #32788, and #32568.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Combinatorics/SimpleGraph/Metric.lean [hunk 1]
```diff
@@ -280,6 +280,11 @@ theorem Adj.diff_dist_adj (hadj : G.Adj v w) :
   have : G.dist u v ≤ G.dist u w + G.dist w v := huw.dist_triangle_left v
   lia
 
+@[deprecated Adj.diff_dist_adj (since := "2025-12-11")]
+theorem Connected.diff_dist_adj (_ : G.Connected) (hadj : G.Adj v w) :
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Metric.lean:284]: Missing `IsTree.diff_dist_adj := IsTree.dist_eq_dist_add_one_of_adj` for #32568 (sorry)

File: Mathlib/Combinatorics/SimpleGraph/VertexCover.lean [hunk 2]
```diff
@@ -190,6 +190,11 @@ theorem IsContained.vertexCoverNum_le_vertexCoverNum (h : G ⊑ H) :
   grw [this.vertexCoverNum_le, ← hs₁]
   exact Function.Embedding.encard_le <| Function.Embedding.mk f hf |>.subtypeMap (by simp)
 
+@[deprecated IsContained.vertexCoverNum_le_vertexCoverNum (since := "2026-01-07")]
+theorem vertexCoverNum_le_vertexCoverNum_of_injective (f : G →g H) (hf : Function.Injective f) :
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/VertexCover.lean:194]: This was renamed 2 days after it was added, and so was deemed [no deprecations needed](https://github.com/leanprover-community/mathlib4/pull/33622#issuecomment-3712161018)

File: Mathlib/Logic/Relation.lean [hunk 3]
```diff
@@ -60,6 +60,8 @@ variable {r : α → α → Prop}
 
 theorem Std.Refl.reflexive [Std.Refl r] : Reflexive r := fun x ↦ Std.Refl.refl x
 
+@[deprecated (since := "2026-01-09")] alias IsRefl.reflexive := Std.Refl.reflexive
```
Comment (SnirBroshi) [inline Mathlib/Logic/Relation.lean:63]: Isn't the fact that the namespace shows the deprecation warning enough?

(same goes for `IsRefl.reflexive`/`IsAsymm.swap`/`IsAsymm.isAntisymm`/`IsAsymm.isIrrefl`)
